US08071592B2
(g) 1,1-dimethylethyl {1-[2-(9-oxo-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-10(9H)-yl)ethyl]-4-piperidinyl}carbamate
(9-oxo-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-10(9H)-yl)acetaldehyde (1.5 g; 6.12 mmol) and 1,1-dimethylethyl 4-piperidinylcarbamate (1.84 g; 9.18 mmol) were dissolved in a 1:1 mixture of chloroform and MeOH (50 ml:50 ml) and stirred at rt for 30 mins. NaBH(OAc)3 (5.81 g; 27.54 mmol) was added and the reaction left overnight. The solvents were then removed and the residues purified by column chromatography on silica gel using a 0-12% MeOH/DCM gradient to give the desired product (1 g; 38%).

reactant | (9-oxo-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-10(9H)-yl)acetaldehyde | 6.12 mmol, 1.5 g | O=C1N(C=2C3=C(C=CC2C=C1)OCCO3)CC=O | C13H11NO4
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 9.18 mmol, 1.84 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | NaBH(OAc)3 | 27.54 mmol, 5.81 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 50 ml | CO | CH4O
product | 1,1-dimethylethyl {1-[2-(9-oxo-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-10(9H)-yl)ethyl]-4-piperidinyl}carbamate | 1 g, 38% | O=C1N(C=2C3=C(C=CC2C=C1)OCCO3)CCN3CCC(CC3)NC(OC(C)(C)C)=O | C23H31N3O5
